US04268675
a. Formation of 5-[1-(2,4-dichlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole
A 250 milliliter, 3-neck flask adapted with a Claisen adaptor, paddle stirrer, thermometer, an addition funnel and condenser, was charged with 28.2 grams (0.120 mole) of 2-(2,4-dichlorophenoxy)propanoic acid, (10.9 grams, 0.120 mole) of thiosemicarbazide and 90 milliliters of dioxane. The slurry was heated to 90° C. and the addition funnel was charged with phosphorous oxychloride (POCl3). The POCl3 (20.2 grams, 0.13 mole) was slowly added (for 38 minutes) while maintaining the temperature within 90°-95° C. The resulting mixture was refluxed for 115 minutes, and then evacuated by using a water aspirator to remove volatiles (HCl, POCl3 and some dioxane). One hundred (100) milliliters of water was added and 50 percent NaOH solution was also added until the pH of the solution was 10. An oil formed, which was extracted with a mixture of CH2Cl2, CHCl3 and diethyl ether, and the organic phase was dried over anhydrous MgSO 4, filtered and topped on a roto-vac at 70° C. to a grey sludge. Upon addition of diethylether, a first crop of crystals formed which were removed by filtration and then dried in a vacuum oven at 80° C. to crystals containing 5-[1-(2,4-dichlorophenoxy)ethyl-2-amino-1,3,4-thiadiazole (9.7 grams). Addition of hexane to the filtrate produced a second crop of crystals which were filtered off, dried in a vacuum oven at 80° C. to 10.1 grams of crystals. The first and second crop of crystals were combined, and recrystallized from the minimum amount of an ethanol water mixture, suction filtered, and dried in a vacuum oven at 80° C. to 17.1 grams of a grey powder of 5-[1-(2,4-dichlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole. (Melting point 119°-123° C.).

reactant | 2-(2,4-dichlorophenoxy)propanoic acid | 0.120 mole, 28.2 grams | ClC1=C(OC(C(=O)O)C)C=CC(=C1)Cl | C9H8Cl2O3
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | 0.13 mole, 20.2 grams | O=P(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 90 milliliters | O1CCOCC1 | C4H8O2
product | 5-[1-(2,4-dichlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole | ClC1=C(OC(C)C2=NN=C(S2)N)C=CC(=C1)Cl | C10H9Cl2N3OS
